US06410562B1
2-(7-(4-Methyl-phenyl)-2-[2methoxyethoxy]-naphthalen-2-yl)-4,5-dihydro-1-H-imidazole
To a solution of 1.4 g (4 mmol) of 2-(7-Bromo-3-[2-methoxyethoxy]-naphthalen-2-yl)-4,5-dihydro-1H-imidazole in 80 ml 1,4-dioxane was added under argon 0.46 g (0.4 mmol) of Pd(PPh3)4 and 8 ml of 2M Na2CO3. After stirring at room temperature for 20 minutes 0.816 g 4-methylbenzeneboronic acid was added and the mixture was heated for 20 hours at 80° C. The mixture was cooled to room temperature and filtered to remove the solid. The solution was acidified with 2N HCl and chromatographed on silica gel with dichloromethane/methanole 90/10 and gave 0.52 g (32%) of an amorphus product.

reactant | 2-(7-Bromo-3-[2-methoxyethoxy]-naphthalen-2-yl)-4,5-dihydro-1H-imidazole | 4 mmol, 1.4 g | BrC1=CC=C2C=C(C(=CC2=C1)C=1NCCN1)OCCOC | C16H17BrN2O2
reactant | Na2CO3 | 2M, 8 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 4-methylbenzeneboronic acid | 0.816 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | 1,4-dioxane | 80 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(7-(4-Methyl-phenyl)-2-[2methoxyethoxy]-naphthalen-2-yl)-4,5-dihydro-1-H-imidazole | 0.52 g, 32% | CC1=CC=C(C=C1)C1=CC=C2C=CC(CC2=C1)(OCCOC)C=1NCCN1 | C23H26N2O2
